US07906501B2
Step 6. 4-Bromo-5-n-propyl-1-[2′-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde (2a)
This compound was prepared using the same procedure as in Example 1. 4.3 g of 4-bromo-5-n-propyl-2-pyrrolaldehyde (0.020 moles) and 11 g of 4′-bromomethyl-2-(1-triphenylmethyltetrazol-5-yl)biphenyl (0.020 moles) yield 10 g of product which are used in the subsequent step. Formula: C41H34BrN5O (m.w. 692.66). Yield 75%.

reactant | 4-bromo-5-n-propyl-2-pyrrolaldehyde | 0.020 moles, 4.3 g | BrC=1C=C(NC1CCC)C=O | C8H10BrNO
reactant | 4′-bromomethyl-2-(1-triphenylmethyltetrazol-5-yl)biphenyl | 0.020 moles, 11 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
product | 4-Bromo-5-n-propyl-1-[2′-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]-2-pyrrolaldehyde | Yield 75% | BrC=1C=C(N(C1CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C41H34BrN5O
